US08802850B2
5-Nitro-2-(propylthio)pyrimidine-4,6-diol
A solution of 2-(propylthio)pyrimidine-4,6-diol (3 g, 16.11 mmol, 1.00 equiv.) in nitric acid (65%) (10 mL) was stirred at ambient temperature for about 2 hours. After adding water (10 mL), the mixture was stirred at about 0° C. for about 30 minutes. The resulting solids were collected by filtration to afford the title product as a yellow solid (1.8 g; yield=48%). 1H NMR (300 MHz, DMSO-d6) δ: 3.17 (t, J=7.2 Hz, 2H), 1.62-1.75 (m, 2H), 0.95-1.02, (t, J=7.2 Hz, 3H).

reactant | 2-(propylthio)pyrimidine-4,6-diol | 16.11 mmol, 3 g, 1.00 equiv. | C(CC)SC1=NC(=CC(=N1)O)O | C7H10N2O2S
reactant | water | 10 mL | O | H2O
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
product | 5-Nitro-2-(propylthio)pyrimidine-4,6-diol | 1.8 g, yield=48% | [N+](=O)([O-])C=1C(=NC(=NC1O)SCCC)O | C7H9N3O4S
